US04173464
Ethyl acetate (50 ml) was added to 1.4 g of an aqueous ethylamine solution (70%), and an ethyl acetate solution containing 3.0 g of 3-(2,5-dichlorophenoxy)benzoic acid chloride was dropwise added thereto with stirring, during which the reaction mixture was cooled in an ice bath. After the addition was finished, the mixture was stirred for 1 hour at room temperature. The reaction mixture was washed with 1 N hydrochloric acid, water, 1% aqueous sodium hydroxide solution and water saturated with sodium chloride in this order and dried over anhydrous sodium sulfate. Thereafter, the solvent was removed by evaporation to obtain 3.1 g of crude crystals. On recrystallizing the crude crystals from a benzene-hexane mixed solvent, 2.8 g of N-ethyl-3-(2,5-dichlorophenoxy)benzamide were obtained. Melting point, 74.5°-75.5° C. Elementary analysis: Calcd. for C15H13Cl2NO2 : C, 58.08%; H, 4.22%, N, 4.52%; Cl, 22.86%. Found: C, 58.16%; H, 4.25%, N, 4.49%; Cl, 22.97%. NMR: δCCl 4: 1.15 (t 3H), 3.34 (quintet 2H), 6.65-7.61 (8H).

reactant | ethylamine | 1.4 g | C(C)N | C2H7N
reactant | 3-(2,5-dichlorophenoxy)benzoic acid chloride | 3.0 g | ClC1=C(OC=2C=C(C(=O)Cl)C=CC2)C=C(C=C1)Cl | C13H7Cl3O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | N-ethyl-3-(2,5-dichlorophenoxy)benzamide | 2.8 g | C(C)NC(C1=CC(=CC=C1)OC1=C(C=CC(=C1)Cl)Cl)=O | C15H13Cl2NO2
